US07291632B2
3-Methyl-N-(3-(1-methylpiperidin-4-ylamino)phenyl)butyramide hydrochloride
Combine 1-methyl-4-(3-aminophenylamino)piperidine triacetate (Preparation 18, 460 mg, 1.17 mmol) and CH2Cl2 (13 mL); stir and cool to 0° C. Add isovaleryl chloride (135 μL, 1.05 mmol), and stir at room temperature for 18 hr. Load onto a 5 g SCX cartridge (mega bond elut, Varian). Wash resin with methanol, then elute product with 2 M ammonia in methanol. Concentrate in vacuo, and chromatograph on silica gel, eluting with a gradient of 1–15% (2M ammonia in methanol) in CH2Cl2. Concentrate in vacuo. Dissolve the purified oil (115 mg, 38% isolated yield) in methanol, add solid NH4Cl (21.2 mg, 1 eq) and sonicate the solution at room temperature for 15 min. Concentrate in vacuo to provide the title compound: mass spectrum (ion spray): m/z=290.2 (M+1); Anal calc'd for C17H28ClN3O.0.1H2O: Theory: C, 62.31; H, 8.67; N, 12.82. Found: C, 62.32; H, 8.78; N, 12.56.

reactant | 1-methyl-4-(3-aminophenylamino)piperidine triacetate | 1.17 mmol, 460 mg | C(C)(=O)O.C(C)(=O)O.C(C)(=O)O.CN1CCC(CC1)NC1=CC(=CC=C1)N
reactant | isovaleryl chloride | 1.05 mmol, 135 μL | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | ammonia | 2 M | N | H3N
reactant | NH4Cl | 21.2 mg, 1 eq | [NH4+].[Cl-]
solvent | methanol | CO | CH4O
solvent | CH2Cl2 | 13 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyl-N-(3-(1-methylpiperidin-4-ylamino)phenyl)butyramide hydrochloride | Cl.CC(CC(=O)NC1=CC(=CC=C1)NC1CCN(CC1)C)C | InChI=1S/C17H27N3O.ClH/c1-13(2)11-17(21)19-16-6-4-5-15(12-16)18-14-7-9-20(3)10-8-14;/h4-6,12-14,18H,7-11H2,1-3H3,(H,19,21);1H
